US04579865
7-Hydroxybenzoxazole
A mixture of 2,3-dihydroxyaniline (2.5 g.), triethylorthoformate (4.5 g.) and 0.1 g. sulfuric acid is heated at 130° C. for one hour. After cooling, the remaining material is purified by HPLC on silica gel.

reactant | 2,3-dihydroxyaniline | 2.5 g | OC1=C(N)C=CC=C1O | C6H7NO2
reactant | triethylorthoformate | 4.5 g | C(C)OC(OCC)OCC | C7H16O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 7-Hydroxybenzoxazole | OC1=CC=CC=2N=COC21 | C7H5NO2
